Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS, dehydration
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ man with scrotal and ischeal decubitus ulcers, HTN,
DMII, severe AS ___ <1.0), recent admission ___ for
prostatitis and R ankle infection s/p hardware infection (on
levofloxacin/flagyl) and ___ for failure to thrive c/b mild
encephalopathy and NSTEMI/NSVT, L hip contracture, inability to
ambulate and urinary retention now with chronic foley here with
altered mental status, decreased energy and confusion. 

After speaking with patient's son on the phone, he describes his
dad as a quiet man that was more active and with energy, but
since his time in rehab he has started to decline. Up until ~1
week ago, he was able to converse with and recognize family. He
believes that there he has not been getting adequate care while
at the rehab facility. 

Initial vital signs were notable for: 98.0 118 137/68 23 95% 6L
NC 
 
Exam notable for:
- Scrotal and gluteal ulcerations
- Dry mucous membranes
- No abdominal pain
- Non distended bladder

Labs were notable for: Na 162, Cl 120, BUN 52, Cr 1.5, Glucose
227, Hgb 8.8, ALT 36, AST 55, ALP 165, ALB 2.6, lactate 1.8
U/A: Many WBCs, Many RBCs, 12 epis
VBG: 7.38/54 

Studies performed include:
CXR: No evidence of acute cardiopulmonary disease. 
EKG: NSR @ 115, normal axis, Q is V1-V2, no ST/T wave changes 

Patient was given: Ceftriaxone 1g, Vancomycin 1000mg, IVF

Vitals on transfer: 99.2 102 116/79 26 100% 3L NC 

Upon arrival to the floor, patient is lying in bed unable to
answer questions and is oriented x0. He is uncomfortable when
being moved, but cannot answer any localizing questions 
regarding
pain or infectious ROS.
 
Past Medical History:
DMII
HTN
BPH/urinary retention
Recurrent UTI
Glaucoma
___: Prostatitis complicated by bacteremia resulting in R 
ankle osteomyelitis, s/p 6 weeks of ABx

 
Social History:
___
Family History:
Unable to obtain due to mental status.
 
Physical Exam:
ADMISSION EXAM:
===============
GENERAL: Unable to answer questions, oriented x0
HEENT: NCAT. Sclera anicteric and without injection. MMM, poor
dentition.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___
systolic murmur heard throughout precordium, no rubs or gallops. 

LUNGS: Diminished breath sounds, Mild rhonchi, no crackles or
wheezes, No increased work of breathing.
BACK: 3 sacral wounds covered by bandages. Wound on L buttocks
deep and packed, painful to palpation, without purulence.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
GU: Urethral wound at site of chronic foley 
EXTREMITIES: Warm without edema.
SKIN: Warm. No rash.
NEUROLOGIC: Unable to do neuro exam. Oriented x0.

DISCHARGE EXAM:
===============
VITALS: 24 HR Data (last updated ___ @ 755)
    RR: 16 (___)  
GENERAL: Cachectic elderly man in NAD, laying on his back with 
contracted LUE and LLE.
HEENT: NCAT, dry mucous membranes.
CARDIAC: RRR
RESPIRATORY: breathing comfortably on RA, no increased WOB
ABDOMEN: soft, nontender, nondistended abdomen
EXTREMITIES: No edema.
NEUROLOGIC: LUE and LLE flexed and contracted.
L/D/A: Indwelling Foley in place. Midline in RUE.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:41PM BLOOD WBC-13.1* RBC-3.21* Hgb-8.8* Hct-29.4* 
MCV-92 MCH-27.4 MCHC-29.9* RDW-18.7* RDWSD-62.4* Plt ___
___ 12:41PM BLOOD Plt ___
___ 12:41PM BLOOD Glucose-227* UreaN-52* Creat-1.5* Na-162* 
K-4.8 Cl-120* HCO3-28 AnGap-15
___ 12:41PM BLOOD ALT-36 AST-55* AlkPhos-165* TotBili-0.2
___ 04:30AM BLOOD CK-MB-2 cTropnT-0.19*
___ 12:41PM BLOOD Albumin-2.6*
___ 04:30AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.3
___ 06:50AM BLOOD calTIBC-116* Ferritn-540* TRF-89*
___ 02:37PM BLOOD Lactate-2.8*
___ 05:59PM BLOOD Lactate-1.8
___ 01:22AM BLOOD Na-160*

STUDIES:
========
___ R ankle XR
No significant interval change since prior.  No evidence of 
retained hardware. No soft tissue swelling. 

___ CT RLE
No lytic changes found among the bones.  Expected postoperative 
changes 
involving the distal fibula. 

___ CT pelvis
No lytic bone destruction found.

___ CXR
IMPRESSION: 
1. Interval improvement in mild pulmonary edema. 
2. Interval development of small left pleural effusion with 
associated 
atelectasis. 

No labs obtained on day of discharge

 
Brief Hospital Course:
___ with scrotal, ischeal, and sacral decubitus ulcers, HTN, 
T2DM, severe AS, prior right ankle CoNS infection s/p hardware 
removal in ___, and urinary retention s/p chronic indwelling 
Foley who initially p/w acute encephalopathy ___ hypernatremia 
and possible urosepsis ___ Enterobacter UTI. Patient required 
mIVF in order to maintain normal serum sodium levels as he had 
insufficient PO intake. After discussions with the patient's son 
around goals of care, the decision was made to move towards 
comfort-focused care. The patient was continued on oral and IV 
pain medications as needed and remained comfortable during his 
hospital stay. 

ACUTE ISSUES:
=============
#Goals of care
Patient was initially admitted from rehab with acute 
encephalopathy and hypernatremia at the request of his son, who 
had been concerned that the patient was receiving inadequate 
care at rehab. The patient had had several recent prolonged 
hospitalizations c/b decubitus ulcers and contractures of his 
LUE and LLE. Family meetings were held with the patient's 
son/health care proxy around the patient's goals of care. The 
patient's son voiced understanding of the chronic nature of his 
father's medical conditions (including dementia/cognitive 
decline, wounds, contractures, and inability to maintain PO 
intake) with the decision to transfer the patient to hospice and 
change his code status to DNR/DNI. He was transferred to 
inpatient hospice. 

#Acute-on-chronic encephalopathy
#Cognitive dysfunction
Patient presented with acute encephalopathy (on a background of 
underlying cognitive dysfunction) in the setting of 
hypernatremia and possible urosepsis.

#Hypernatremia
Admission Na 162, likely ___ inadequate PO intake. Hypernatremia 
was initially corrected per the patient's goals of care at that 
time.

___
Admission Cr 1.5 (baseline ~1.0), thought to be prerenal 
azotemia. Resolved with IVF resuscitation.

#c/f urosepsis
#Acute complicated cystitis ___ Enterobacter
Patient p/w fever, tachycardia, and systemic leukocytosis c/f 
sepsis, most likely ___ Enterobacter UTI in the setting of 
chronic indwelling Foley. He was treated with a 14-day course of 
antibiotics per his goals of care at the time.

#Decubitus ulcers
Patient p/w multiple pressure ulcers ranging from full-thickness 
to unstageable. His foot wounds were evaluated by Podiatry, and 
he underwent CT pelvis and R heel, which did not demonstrate 
osteomyelitis. He was followed by Wound Care. Surgical 
evaluation was deferred.

CHRONIC/RESOLVED ISSUES:
========================
#NSVT
H/o asymptomatic NSVT during his last admission, at which time 
he was initiated on metoprolol.

#Urinary retention s/p chronic indwelling Foley
Patient had been seen by his outpatient urologist PTA with 
recommendation to continue indwelling Foley with changes q4-6 
weeks. Urinary retention thought to be ___ large prostate; 
already on maximal medical therapy. Home tamsulosin and 
finasteride were continued for comfort.

#Normocytic anemia
Baseline Hgb ___. Noted to be iron-deficient in ___. Home 
iron was held.

#CAD c/b NSTEMI
Found to have NSTEMI during last admission in ___. Home ASA 
and atorvastatin were initially given but then discontinued.

#Severe AS
___ <1.0l; thought not to be a TAVR/SAVR candidate due to 
functional status.

#HTN
Not currently on medications.

#T2DM, diet-controlled

#Glaucoma
Continued home timolol and latanoprost eye gtt for comfort.

Contact: ___ (son), ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
2. Atorvastatin 80 mg PO QPM 
3. Baclofen 10 mg PO TID:PRN Pain - Moderate 
4. Docusate Sodium 100 mg PO BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
7. Senna 8.6 mg PO BID:PRN Constipation - First Line 
8. Finasteride 5 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Tamsulosin 0.4 mg PO QHS 
11. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Collagenase Ointment 1 Appl TP DAILY  
2.  Glycopyrrolate 0.1-0.2 mg IV Q4H:PRN excess secretions  
3.  Hydromorphone (Oral Solution) 1 mg/1 mL 0.5-1 mg PO Q4H pain 

RX *hydromorphone 1 mg/mL 0.5-1 mg by mouth every 4 hours Disp 
___ Milliliter Refills:*0 
4.  Hyoscyamine 0.125-0.25 mg SL Q4H:PRN excess secretions  
5.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 10 mg 
PO Q2H:PRN Pain - Moderate 
RX *morphine concentrate 20 mg/mL 10 mg by mouth every 2 hours 
Disp ___ Milliliter Refills:*0 
6.  Docusate Sodium (Liquid) 100 mg PO BID:PRN Constipation - 
First Line  
7.  Senna 17.2 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
8.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
9.  Baclofen 10 mg PO TID:PRN Pain - Moderate  
10.  Finasteride 5 mg PO DAILY  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
13.  Tamsulosin 0.4 mg PO QHS  
14.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Hypernatremia
Acute-on-chronic encephalopathy
Urosepsis ___ Enterobacter UTI
___
Decubitus ulcers

SECONDARY DIAGNOSES:
====================
NSVT
Urinary retention s/p chronic indwelling Foley
Normocytic anemia
Severe AS
CAD c/b NSTEMI
HTN
Glaucoma

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at the ___ 
___ ___.

Why did you come to the hospital?
- You came to the hospital because you were feeling confused. 

What did you receive in the hospital?
- You had many tests to evaluate for the cause of your 
confusion. You received antibiotics to treat a urinary tract 
infection. You also received nursing care for your wounds. 
- In discussion with your family, it was decided to focus on 
making sure you remain comfortable and pain-free. You received 
oral and IV pain medications as needed.

What should you do once you leave the hospital?
- Your healthcare providers should continue to adjust your pain 
medication regimen so that you remain comfortable and pain-free. 


We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___